US09422235B2
N-Cyclopropylmethyl-4-(2,4-dichloro-phenylamino)-N-methyl-2-trifluoromethyl-benzenesulfonamide
To a solution of N-Cyclopropylmethyl-4-(2,4-dichloro-phenylamino)-2-trifluoromethyl-benzenesulfonamide, (256 mg. 0.58 mmol), methyl iodide (92 mg, 0.65 mmol) and tetrabutylammonium hydrosulfate (38 mg, 0.11 mmol) in 15 ml dichloromethane 3 ml 25% solution of NaOH was added and mixture was stirred for 3 hours. Water was added and mixture was washed twice with 1 N HCl and brine. After drying over sodium sulfate solvent was evaporated and crude solid used in the next stage. Yield 97%.

reactant | N-Cyclopropylmethyl-4-(2,4-dichloro-phenylamino)-2-trifluoromethyl-benzenesulfonamide | 0.58 mmol, 256 mg | C1(CC1)CNS(=O)(=O)C1=C(C=C(C=C1)NC1=C(C=C(C=C1)Cl)Cl)C(F)(F)F | C17H15Cl2F3N2O2S
reactant | methyl iodide | 0.65 mmol, 92 mg | CI | CH3I
reactant | tetrabutylammonium | 0.11 mmol, 38 mg | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | N-Cyclopropylmethyl-4-(2,4-dichloro-phenylamino)-N-methyl-2-trifluoromethyl-benzenesulfonamide | Yield 97% | C1(CC1)CN(S(=O)(=O)C1=C(C=C(C=C1)NC1=C(C=C(C=C1)Cl)Cl)C(F)(F)F)C | C18H17Cl2F3N2O2S
